US09215873B2
3.2 Crystallization from n-Hexane-Ethyl Acetate
Slurry of 2 g. of fipronil and 90 g. of n-hexane was heated up to 69° C. Ethyl acetate was added dropwise until a clear solution was obtained (total of 71 g.). The solution was then cooled under agitation to room temperature. White crystals obtained in the bottom of the flask. The crystals were filtered and then dried at 40° C.

reactant | fipronil | C=1C(=CC(=C(C1Cl)N2C(=C(C(=N2)C#N)[S+](C(F)(F)F)[O-])N)Cl)C(F)(F)F | C12H4Cl2F6N4OS
reactant | n-hexane | CCCCCC | C6H14
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | n-Hexane Ethyl Acetate | CCCCCC.C(C)(=O)OCC | InChI=1S/C6H14.C4H8O2/c1-3-5-6-4-2;1-3-6-4(2)5/h3-6H2,1-2H3;3H2,1-2H3
